US09238639B2
(4-Chloro-2-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(4-chloro-2-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate (184.5 mg), THF (dry) (2.0 mL) and MeOH (2.0 mL) was added 1N NaOH (1.28 mL). The mixture was stirred at room temperature for 2 h and at 50° C. for 1 h. The mixture was neutralized with 1N HCl. The generated precipitate was collected by filtration to give a colorless solid. The solid was crystallized from EtOAc-hexane to give the title compound (161 mg).

reactant | methyl(4-chloro-2-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 184.5 mg | COC(CC1=C(SC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)Cl)C)=O | C18H16ClF3N2O3S
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 1.28 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2.0 mL | CO | CH4O
product | (4-Chloro-2-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 161 mg | ClC1=CC(=CC2=C1C(=C(S2)C)CC(=O)O)OCC2=CC(=NN2C)C(F)(F)F | C17H14ClF3N2O3S
